### PR TITLE
feat(Geometry/Euclidean/Triangle): add law of sines

### PR DESCRIPTION
**Pull request by zcyemi**
---
Implement the vector and angle-at-point forms of the law of sines.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 1]
```diff
@@ -59,6 +59,41 @@ theorem norm_sub_sq_eq_norm_sq_add_norm_sq_sub_two_mul_norm_mul_norm_mul_cos_ang
...
+    | inr hyr => left; rw [angle_neg_right, angle_self hyr]; simp
+  | inr hxr =>
+    cases eq_or_ne y 0 with
+    | inl hyl => simp [hyl]
+    | inr hyr =>
+      cases eq_or_ne x y with
+      | inl hxy => rw [hxy, sub_self, norm_zero, mul_zero, angle_self hyr, Real.sin_zero, zero_mul]
+      | inr hxy =>
+        have hsub: x - y ≠ 0 := by exact sub_ne_zero_of_ne hxy
+        have h_sin (x y: V) (hx: x ≠ 0) (hy: y ≠ 0) :
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: A style nit:
```suggestion
        have h_sin (x y : V) (hx: x ≠ 0) (hy: y ≠ 0) :
```

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 2]
```diff
@@ -59,6 +59,41 @@ theorem norm_sub_sq_eq_norm_sq_add_norm_sq_sub_two_mul_norm_mul_norm_mul_cos_ang
     real_inner_self_eq_norm_mul_norm, ← real_inner_self_eq_norm_mul_norm, real_inner_sub_sub_self,
     sub_add_eq_add_sub]
 
+/-- **Law of sines** (sine rule), vector form. -/
+theorem sin_angle_mul_norm_eq_sin_angle_mul_norm (x y : V) :
+    Real.sin (angle x y) * ‖x‖ = Real.sin (angle y (x - y)) * ‖x - y‖ := by
+  cases eq_or_ne x 0 with
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: A little shorter as `obtain rfl | hx := eq_or_ne x 0`, and throughout.

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 3]
```diff
@@ -59,6 +59,41 @@ theorem norm_sub_sq_eq_norm_sq_add_norm_sq_sub_two_mul_norm_mul_norm_mul_cos_ang
...
+    | inl hyl => right; exact hyl
+    | inr hyr => left; rw [angle_neg_right, angle_self hyr]; simp
+  | inr hxr =>
+    cases eq_or_ne y 0 with
+    | inl hyl => simp [hyl]
+    | inr hyr =>
+      cases eq_or_ne x y with
+      | inl hxy => rw [hxy, sub_self, norm_zero, mul_zero, angle_self hyr, Real.sin_zero, zero_mul]
+      | inr hxy =>
+        have hsub: x - y ≠ 0 := by exact sub_ne_zero_of_ne hxy
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]:
```suggestion
        have hsub: x - y ≠ 0 := sub_ne_zero_of_ne hxy
```

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 4]
```diff
@@ -262,6 +297,37 @@ theorem dist_sq_eq_dist_sq_add_dist_sq_sub_two_mul_dist_mul_dist_mul_cos_angle (
...
+
+alias law_sin := sin_angle_mul_dist_eq_sin_angle_mul_dist
+
+/-- A variant of the law of sines, angle-at-point form. -/
+theorem sin_angle_div_dist_eq_sin_angle_div_dist {p₁ p₂ p₃ : P} (h23: p₂ ≠ p₃) (h31: p₃ ≠ p₁):
+    Real.sin (∠ p₁ p₂ p₃) / dist p₃ p₁ = Real.sin (∠ p₃ p₁ p₂) / dist p₂ p₃ := by
+  field_simp [dist_ne_zero.mpr h23, dist_ne_zero.mpr h31]
+  exact law_sin
+
+/-- A variant of the law of sines, require not collinear. -/
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]:
```suggestion
/-- A variant of the law of sines, requiring that the points not be collinear. -/
```

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 5]
```diff
@@ -262,6 +297,37 @@ theorem dist_sq_eq_dist_sq_add_dist_sq_sub_two_mul_dist_mul_dist_mul_cos_angle (
...
+theorem dist_eq_dist_mul_sin_angle_div_sin_angle {p₁ p₂ p₃ : P}
+    (h: AffineIndependent ℝ ![p₁,p₂,p₃]) :
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]:
```suggestion
    (h : AffineIndependent ℝ ![p₁,p₂,p₃]) :
```

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 6]
```diff
@@ -262,6 +297,37 @@ theorem dist_sq_eq_dist_sq_add_dist_sq_sub_two_mul_dist_mul_dist_mul_cos_angle (
...
+    dist p₁ p₂ = dist p₃ p₁ * Real.sin (∠ p₂ p₃ p₁) / Real.sin (∠ p₁ p₂ p₃) :=by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]:
```suggestion
    dist p₁ p₂ = dist p₃ p₁ * Real.sin (∠ p₂ p₃ p₁) / Real.sin (∠ p₁ p₂ p₃) := by
```

**Review by eric-wieser — COMMENTED** [review]
Thanks, this looks pretty good; I've left some initial style comments.

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 2 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: Thanks! updated as suggested.

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 5 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: @eric-wieser By the way, is there a lint tool we can run locally to catch these style issues before committing?

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 7]
```diff
@@ -59,6 +59,36 @@ theorem norm_sub_sq_eq_norm_sq_add_norm_sq_sub_two_mul_norm_mul_norm_mul_cos_ang
...
+            Real.sin (angle x y) = √(⟪x, x⟫ * ⟪y, y⟫ - ⟪x, y⟫ * ⟪x, y⟫) / (‖x‖ * ‖y‖) := by
+          field_simp [sin_angle_mul_norm_mul_norm]
+        rw [h_sin x y hx hy, h_sin y (x - y) hy hsub]
+        field_simp
+        rw [mul_assoc, mul_assoc]
+        congr 1
+        · congr 1
+          simp_rw [inner_sub_left, inner_sub_right, real_inner_comm x y]
+          ring
+        · ring
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: Perhaps a little nicer as
```suggestion
theorem sin_angle_mul_norm_eq_sin_angle_mul_norm (x y : V) :
    Real.sin (angle x y) * ‖x‖ = Real.sin (angle y (x - y)) * ‖x - y‖ := by
  wlog h : x ≠ 0 ∧ y ≠ 0 ∧ x ≠ y
  · obtain rfl | hy := eq_or_ne y 0
    · simp
    obtain rfl | hx := eq_or_ne x 0
    · simp [angle_neg_right, angle_self hy]
    obtain rfl | hxy := eq_or_ne x y
    · simp [angle_self hx]
    cases h ⟨hx, hy, hxy⟩
  obtain ⟨hx, hy, hxy⟩ := h
  have hsub : x - y ≠ 0 := sub_ne_zero_of_ne hxy
  have h_sin (x y : V) (hx: x ≠ 0) (hy : y ≠ 0) :
      Real.sin (angle x y) = √(⟪x, x⟫ * ⟪y, y⟫ - ⟪x, y⟫ * ⟪x, y⟫) / (‖x‖ * ‖y‖) := by
    field_simp [sin_angle_mul_norm_mul_norm]
  rw [h_sin x y hx hy, h_sin y (x - y) hy (sub_ne_zero_of_ne hxy)]
  field_simp [mul_assoc, inner_sub_left, inner_sub_right, real_inner_comm x y]
  ring_nf
```
which gets the nondegeneracy out of the way in one place.

Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: Thanks for the simplification! I learnded a new tactic from this.
Fix done.

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 8]
```diff
@@ -262,6 +287,37 @@ theorem dist_sq_eq_dist_sq_add_dist_sq_sub_two_mul_dist_mul_dist_mul_cos_angle (
...
+theorem sin_angle_div_dist_eq_sin_angle_div_dist {p₁ p₂ p₃ : P} (h23: p₂ ≠ p₃) (h31: p₃ ≠ p₁):
+    Real.sin (∠ p₁ p₂ p₃) / dist p₃ p₁ = Real.sin (∠ p₃ p₁ p₂) / dist p₂ p₃ := by
+  field_simp [dist_ne_zero.mpr h23, dist_ne_zero.mpr h31]
+  exact law_sin
+
+/-- A variant of the law of sines, requiring that the points not be collinear. -/
+theorem dist_eq_dist_mul_sin_angle_div_sin_angle {p₁ p₂ p₃ : P}
+    (h : AffineIndependent ℝ ![p₁,p₂,p₃]) :
+    dist p₁ p₂ = dist p₃ p₁ * Real.sin (∠ p₂ p₃ p₁) / Real.sin (∠ p₁ p₂ p₃) := by
+  have sin_gt_zero: Real.sin (∠ p₁ p₂ p₃) > 0 := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean:313]:
```suggestion
  have sin_gt_zero : Real.sin (∠ p₁ p₂ p₃) > 0 := by
```

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 9]
```diff
@@ -262,6 +287,37 @@ theorem dist_sq_eq_dist_sq_add_dist_sq_sub_two_mul_dist_mul_dist_mul_cos_angle (
...
+    apply sin_pos_of_not_collinear
+    rw [← affineIndependent_iff_not_collinear_set]
+    exact h
+  field_simp [sin_gt_zero]
+  rw [mul_comm, mul_comm (dist p₃ p₁)]
+  rw [law_sin]
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean:319]: Here and throughout, can you combine your `rw`s?
```suggestion
  rw [mul_comm, mul_comm (dist p₃ p₁), law_sin]
```
If the line is too long, you can put a line break (and indent) inside the `[]`

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 10]
```diff
@@ -262,6 +287,37 @@ theorem dist_sq_eq_dist_sq_add_dist_sq_sub_two_mul_dist_mul_dist_mul_cos_angle (
...
+
+/-- A variant of the law of sines, angle-at-point form. -/
+theorem sin_angle_div_dist_eq_sin_angle_div_dist {p₁ p₂ p₃ : P} (h23: p₂ ≠ p₃) (h31: p₃ ≠ p₁):
+    Real.sin (∠ p₁ p₂ p₃) / dist p₃ p₁ = Real.sin (∠ p₃ p₁ p₂) / dist p₂ p₃ := by
+  field_simp [dist_ne_zero.mpr h23, dist_ne_zero.mpr h31]
+  exact law_sin
+
+/-- A variant of the law of sines, requiring that the points not be collinear. -/
+theorem dist_eq_dist_mul_sin_angle_div_sin_angle {p₁ p₂ p₃ : P}
+    (h : AffineIndependent ℝ ![p₁,p₂,p₃]) :
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Triangle.lean:311]: @jsm28, should this be stated with "not collinear" instead?

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Triangle.lean:311]: "not collinear" is probably more convenient when you have the hypothesis with the points in a different order and need to reorder them before applying this result. `AffineIndependent` would allow dot notation if this result were put into that namespace (and you have the points in the right order), but I'm not sure that's a particularly significant benefit.

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 8 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/Triangle.lean:313]: fixed

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 9 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/Triangle.lean:319]: `rw` merged here and elsewhere.

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 10 above)
Comment (zcyemi) [reply Mathlib/Geometry/Euclidean/Triangle.lean:311]: Change to "not collinear".
Hi @eric-wieser , due to removal of write permissions, this PR was migrated to a new one  [!25862](https://github.com/leanprover-community/mathlib4/pull/25862) from a fork. All previsous mentioned suggestions have been fixed and updates, Just letting you know.

**Comment by jsm28** [comment]
Closing as migrated to new PR.
